US06930112B2
N-Acetyl-β-[2-(3-methoxy-4-hydroxyphenyl)ethyl]-β-alanine methyl ester
Methyl 3-acetamido-5-[3-methoxy-4-(4-nitrobenzyloxy)phenyl]thiophene-2-carboxylate (1.4481 g, 3.17 mmol) was reductively desulfurized using Raney nickel. The filtered solution was taken up in hot EtOAc then washed with 0.5 N HCl (2×30 mL) and H2O. The organic layer was dried (MgSO4), filtered and concentrated to yield the title compound as a yellow oil (0.5620 g, 1.90 mmol, 60.0%); TLC: Rf=0.80 (Solvent L); IR (cm−1): 3498 (OH), 2905 (CH aliphatic), 1743 (ester C═O), 1663 (amide C═O), 726 (═CH); 1H nmr (CDCl3): δ 6.82 (d, 1H, J=7.9 Hz), 6.67 (m, 2H), 6.10 (br d, 1H, J=8.6 Hz), 5.56 (br s, 1H), 4.28 (m, 1H), 3.88 (s, 3H), 3.68 (s, 3H), 2.60 (d, 2H, J=8.4 Hz), 2.55 (t, 2H, J=2.2 Hz), 1.97 (s, 3H), 1.85 (m, 2H).

reactant | Methyl 3-acetamido-5-[3-methoxy-4-(4-nitrobenzyloxy)phenyl]thiophene-2-carboxylate | 3.17 mmol, 1.4481 g | C(C)(=O)NC1=C(SC(=C1)C1=CC(=C(C=C1)OCC1=CC=C(C=C1)[N+](=O)[O-])OC)C(=O)OC | C22H20N2O7S
catalyst | Raney nickel | [Ni] | Ni
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Acetyl-β-[2-(3-methoxy-4-hydroxyphenyl)ethyl]-β-alanine methyl ester | 1.90 mmol, 0.5620 g, 60.0% | COC(CC(NC(C)=O)CCC1=CC(=C(C=C1)O)OC)=O | C15H21NO5
